US07265120B2
Zinc dust (1.57 g) was added in portions to a suspension of 1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-phenyl-1,2-ethanedione 1-oxime (856 mg) in a mixture acetic anhydride (1.7 ml) and AcOH (10 ml) under ambient temperature and the mixture was stirred at the same temperature for 4 hours. An insoluble material was filtered off and a filtrate was concentrated under reduced pressure to give a residue. The residue was dissolved in EtOAc, washed with sat. aq. NaHCO3 solution, dried over MgSO4 and subjected to column chromatography on silica gel eluting with a mixture of MeOH and EtOAc (2:98 v/v) to give N-[1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]acetamide as a solid (724 mg).

reactant | 1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-phenyl-1,2-ethanedione 1-oxime | 856 mg | C(C)(C)N1N=C(C=CC1=O)C(C(=O)C1=CC=CC=C1)=NO | C15H15N3O3
reactant | acetic anhydride | 1.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | AcOH | 10 ml | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Zinc | 1.57 g | [Zn] | Zn
product | N-[1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-oxo-2-phenylethyl]acetamide | 724 mg | C(C)(C)N1N=C(C=CC1=O)C(C(C1=CC=CC=C1)=O)NC(C)=O | C17H19N3O3
